US08076513B2
7.5 g (22.3 mmol) of (1S,2R)-(1-benzyl-2-hydroxy-3-isobutylamino-propyl)-carbamic acid tert-butyl ester and 2.7 g (26.8 mmol, 1.2 equiv) of triethylamine are dissolved in 100 g of isopropanol and heated to 60-65° C. 5.41 g (24.5 mmol, 1.1 eq) p-nitrophenyl-sulfonyl chloride are added in several portions within 30 minutes. The reaction mixture is kept at 60° C. for another 30 minutes. 10 g of water are added and the suspension is stirred for an additional 30 minutes at 60° C. The mixture is cooled to 25° C. within 90 min and the product is filtered off, washed with a mixture of isopropanol/water (1:1 v/v) and dried under vacuum to yield 11.23 g (96.5%) of white (1S,2R)-{1-benzyl-2-hydroxy-3-[isobutyl-(4-nitro-benzenesulfonyl)-amino]-propyl}-carbamic acid tert-butyl ester.

reactant | (1S,2R)-(1-benzyl-2-hydroxy-3-isobutylamino-propyl)-carbamic acid tert-butyl ester | 22.3 mmol, 7.5 g | C(C)(C)(C)OC(N[C@H]([C@@H](CNCC(C)C)O)CC1=CC=CC=C1)=O | C19H32N2O3
reactant | triethylamine | 26.8 mmol, 2.7 g, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | p-nitrophenyl-sulfonyl chloride | 24.5 mmol, 5.41 g, 1.1 eq | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | water | 10 g | O | H2O
solvent | isopropanol | 100 g | C(C)(C)O | C3H8O
product | (1S,2R)-{1-benzyl-2-hydroxy-3-[isobutyl-(4-nitro-benzenesulfonyl)-amino]-propyl}-carbamic acid tert-butyl ester | 11.23 g, 96.5% | C(C)(C)(C)OC(N[C@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)O)CC1=CC=CC=C1)=O | C25H35N3O7S
